US09108938B2
To a solution of (4-Chloro-phenyl)-pyrrolidin-1-yl-acetonitrile (3.52 g, 15.2 mmol; in Tetrahydrofuran (96 mL) was added Lithium tetrahydroaluminate (1225 mg, 32.28 mmol) and the reaction was refluxed over night. The reaction was quenched with H2O (1.22 ml), 2M NaOH (aq) (1.22 ml) and H2O (2.44 ml). The solid was filtered off and the reaction was concentrated, to yield 2-(4-chlorophenyl)-2-(pyrrolidin-1-yl)ethanamine (1.14 g, 30% yield).

reactant | (4-Chloro-phenyl)-pyrrolidin-1-yl-acetonitrile | ClC1=CC=C(C=C1)C(C#N)N1CCCC1 | C12H13ClN2
reactant | Lithium tetrahydroaluminate | 32.28 mmol, 1225 mg | [AlH4-].[Li+]
solvent | Tetrahydrofuran | 96 mL | O1CCCC1 | C4H8O
product | 2-(4-chlorophenyl)-2-(pyrrolidin-1-yl)ethanamine | 1.14 g, 30% yield | ClC1=CC=C(C=C1)C(CN)N1CCCC1 | C12H17ClN2
